Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],3.82588789
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3]([H:4])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],4.993697170319999
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.7954759641900002
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:1][C:2],7.21609791605
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2],8.273077418189999
[C:1][C:2][O:3].[C:4]([H:5])[H:6]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6],-2.8152027132
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.0685851155
[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],-5.37583750272
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([H:3])[H:4],4.15126753694
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([C:9])([H:12])[H:13].[H:1][C:2][C:3]([H:4])([H:5])[C:6]#[C:10][H:11],1.33800833663
[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-4.0199443391
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:7][C:8]([H:9])[O:10][H:11].[H:6]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11],-3.85451865723
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9])[O:11][H:12].[H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12],-4.2799696777900005
[C:3]([H:4])([H:5])[C:6]#[C:7][O:8][H:9].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][H:9],-0.1834968223099999
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.82537193062
[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],-5.16130819525
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.8603640327
[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5][H:6]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-6.50182934505
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:7][C:8]([H:9])([H:10])[H:11].[H:6],4.15229042454
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12],4.37934787391
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4]([H:5])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3][C:8](=[C:6][H:7])[H:9],5.19126264894
[H:1][C:2]=[C:3]1[O:4][C:5]1=[C:6]([H:7])[H:8]>>[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8],0.54198526088
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.66856546606
[C:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])=[O:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6],1.81963827898
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8],4.68680339847
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9],1.41939569716
[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[H:11],1.25342553791
[C:1]#[C:2][O:3][C:4]([O:5][H:6])=[C:7][H:8]>>[C:1]=[C:2]1[O:3][C:4]([O:5][H:6])=[C:7]1[H:8],-2.28353513288
